US08835429B2
8,8′-(2,5-dichloropyrimidine-4,6-diyl)bis(3-oxa-8-azabicyclo[3.2.1]octane)
To a solution of 2,4,5,6-tetrachloro-pyrimidine (2.0 g, 9.2 mmol) in THF (20 mL) and triethylamine (excess) was added 3-oxa-8-aza-bicyclo[3.2.1]octane (2.7 g, 18 mmol) at −78° C. The reaction slowly warmed to room temperature and a white precipitate formed. To the reaction was added water (2.0 mL) and the mixture was refluxed for three days. The reaction was cooled and water was added to precipitate a white solid. The solids were collected by filtration and washed with diethyl ether to yield the title compound (2.0 g). MS m/z=372 (M+H).

reactant | 2,4,5,6-tetrachloro-pyrimidine | 9.2 mmol, 2.0 g | ClC1=NC(=C(C(=N1)Cl)Cl)Cl | C4Cl4N2
reactant | 3-oxa-8-aza-bicyclo[3.2.1]octane | 18 mmol, 2.7 g | C12COCC(CC1)N2 | C6H11NO
reactant | water | 2.0 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 8,8′-(2,5-dichloropyrimidine-4,6-diyl)bis(3-oxa-8-azabicyclo[3.2.1]octane) | 2.0 g | ClC1=NC(=C(C(=N1)N1C2COCC1CC2)Cl)N2C1COCC2CC1 | C16H20Cl2N4O2
